US08497281B2
(1H-Benzoimidazol-5-yl)-(cis-4b,5,6,7,8a,9-hexahydro-3-oxa-1,8-diaza-cyclopenta[b]fluoren-8-yl)-methanone
A mixture of (cis-7-amino-8-hydroxy-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-(1H-benzoimidazol-5-yl)-methanone (100 mg), 4-toluenesulfonic acid hydrate (5 mg), triethyl orthoformate (40 μL), and methanol (1 mL) is stirred at 60° C. for 2 h. After cooling to room temperature, the mixture is concentrated and the residue is dissolved in ethyl acetate. The resulting solution is washed with 1 M NaOH solution, dried (Na2SO4), and concentrated to give the title compound. Yield: 50 mg (49% of theory); LC (method 1): tR=2.24 min; Mass spectrum (ESI+): m/z=359 [M+H]+.

reactant | (cis-7-amino-8-hydroxy-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-(1H-benzoimidazol-5-yl)-methanone | 100 mg | NC1=C(C=2C[C@@H]3N(CCC[C@@H]3C2C=C1)C(=O)C1=CC2=C(NC=N2)C=C1)O | C20H20N4O2
reactant | 4-toluenesulfonic acid hydrate | 5 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | triethyl orthoformate | 40 μL | C(OCC)(OCC)OCC | C7H16O3
solvent | methanol | 1 mL | CO | CH4O
product | (1H-Benzoimidazol-5-yl)-(cis-4b,5,6,7,8a,9-hexahydro-3-oxa-1,8-diaza-cyclopenta[b]fluoren-8-yl)-methanone | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@H]1C=3C=C4C(=CC3C[C@@H]21)N=CO4 | C21H18N4O2
